US04736031
To a mixture of 11 g of methyl 3-(2-hydroxy-4-methoxyphenyl)propionate, 9.5 g of trimethylenediamine and 45 ml of N,N-dimethylformamide, a solution of 7.5 g of N,N-dimethylthiocarbamoyl chloride in 15 ml of N,N-dimethylformamide is added dropwise with stirring. After stirring for 13 hours at room temperature, the reaction mixture is poured into ice water and extracted with ethyl acetate. The organic layer is washed with water, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue is stirred at 280°-290° C. for one hour. After cooling, the reaction mixture is dissolved in 60 ml of ethanol and 3.6 g of potassium hydroxide is added to the solution. The mixture is heated under refluxing for 5 hours, and then 3.9 g of methyl bromoacetate is added. The resulting mixture is stirred at room temperature for 4 hours, and 4.0 g of dimethyl sulfate and 30 ml of acetone are added to the mixture. The reaction mixture is stirred at 60° C. for 10 hours, and then concentrated under reduced pressure. The residue is treated with water, and extracted with ethyl acetate. The organic layer is washed with water, dried, and then concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (eluant: hexane:ethyl acetate=2:1), to give 4.0 g of methyl 3-(4-methoxy-2-methoxycarbonylmethylthiophenyl)propionate. To a suspension of 0.8 g of 60% oily sodium hydride in 50 ml of toluene is added 0.05 ml of tert-butanol. To the resulting mixture, a solution of 2.2 g of methyl 3-(4-methoxy-2-methoxycarbonylmethylthiophenyl)propionate in 50 ml of toluene is added dropwise at 130° C. under nitrogen atmosphere (8 hours). After cooling, 2 ml of acetic acid is added to the reaction mixture and the resulting mixture is stirred. The precipitates are filtered off and the filtrate is concentrated under reduced pressure. The residue is purified by column chromatography on silica gel (eluant: hexane:ethyl acetate=3:1) to give 1.3 g of methyl 8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzothiepin-2-carboxylate. A mixture of 1.0 g of methyl 8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzothiepin-2-carboxylate, 2.5 g of 1-bromo-3-chloropropane, 0.3 g of potassium iodide, 1.5 g of potassium carbonate and 20 ml of acetonitrile is stirred at 85° C. for 5 hours. After cooling, the inorganic substances are filtered off, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by column chromatography on silica gel (eluant: hexane:methylene chloride:ethyl acetate=15:10:1), to give 0.9 g of methyl 2-(3-chloropropyl)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzothiepin-2-carboxylate. To a solution of 0.7 g of methyl 2-(3-chloropropyl)-8-methoxy-3 -oxo-2,3,4,5-tetrahydro-1-benzothiepin-2-carboxylate in a mixture of 10 ml of methanol and 3 ml of tetrahydrofuran, 0.1 g of sodium borohydride is added in small portions with stirring and under ice-cooling. After stirring for 1 hour, the reaction mixture is poured into ice water and extracted with ethyl acetate. The organic layer is washed with water, dried, and evaporated under reduced pressure. The residue is purified by column chromatography (eluant: hexane:ethyl acetate=2:1), to give methyl 2-(3-chloropropyl)-3-hydroxy-8-methoxy-2,3,4,5-tetrahydro-1-benzothiepin-2-carboxylate.

reactant | methyl 8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzothiepin-2-carboxylate | 1.0 g | COC1=CC2=C(CCC(C(S2)C(=O)OC)=O)C=C1 | C13H14O4S
reactant | 1-bromo-3-chloropropane | 2.5 g | BrCCCCl | C3H6BrCl
reactant | potassium iodide | 0.3 g | [I-].[K+]
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 2-(3-chloropropyl)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1-benzothiepin-2-carboxylate | 0.9 g | ClCCCC1(SC2=C(CCC1=O)C=CC(=C2)OC)C(=O)OC | C16H19ClO4S
